US08242125B2
109-A. 4-[1-(3-Cyano-5-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester
4-(1H-indol-5-yloxy)-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester, Example 31-F (140 mg, 0.38 mmol) is dissolved in THF (5 mL) and NaH (31 mg, 0.76 mmol, 60% in mineral oil) is added followed by (3-cyano-5-trifluoromethyl-phenyl)-carbamic acid phenyl ester (428 mg, 1.15 mmol). After 24 h, the reaction is concentrated and then partitioned between DCM and water. The crude residue is purified via FCC (5-90% EtOAc/heptane) to give the title compound. MS (ESI) m/z 579.2 (M+1).

reactant | 4-(1H-indol-5-yloxy)-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1)OC=1C=C2C=CNC2=CC1 | C20H22N4O3
reactant | NaH | 0.76 mmol, 31 mg | [H-].[Na+]
reactant | (3-cyano-5-trifluoromethyl-phenyl)-carbamic acid phenyl ester | 1.15 mmol, 428 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC(=C1)C(F)(F)F)C#N)=O | C15H9F3N2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[1-(3-Cyano-5-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC(=C1)C(F)(F)F)C#N)=O | C29H25F3N6O4
